US05773448
A solution of 1-(2-chloroethyl)-5-fluoro-1H-indole-2,3-dione (2.27 g), propanedithiol (1.1 ml) in chloroform was added dropwise to a stirred solution of boron trifluoride etherate (1.2 ml) in acetic acid (2.2 ml) and chloroform (10 ml) which was maintained at a gentle reflux throughout the addition. After 1.5 h reaction time the mixture was cooled, washed with water and sodium hydrogen carbonate solution, dried (MgSO4) and filtered through a pad of flash silica using chloroform as eluent. The combined fractions were evaporated under reduced pressure and triturated with ether to give 1-(2-chloroethyl)-1,3-dihydro-5-fluoro-2-oxo-2H-indole-3-spiro-2'-1,3-dithiane.

reactant | 1-(2-chloroethyl)-5-fluoro-1H-indole-2,3-dione | 2.27 g | ClCCN1C(C(C2=CC(=CC=C12)F)=O)=O | C10H7ClFNO2
reactant | propanedithiol | 1.1 ml | C(CC)(S)S | C3H8S2
reactant | boron trifluoride etherate | 1.2 ml | B(F)(F)F.CCOCC
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 2.2 ml | C(C)(=O)O | C2H4O2
product | 1-(2-chloroethyl)-1,3-dihydro-5-fluoro-2-oxo-2H-indole-3-spiro-2'-1,3-dithiane | ClCCN1C(C2(SCCCS2)C2=CC(=CC=C12)F)=O | C13H13ClFNOS2
